US07572809B2
a) Preparation of 1-Bromo-7-fluoro-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol
To a solution of (1-Chloro-7-fluoro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (1.0 g) in 10 mL acetic acid was added hydrobromic acid (1 mL, 40%). The mixture was heated at 160° C. for 30 min under microwave irradiation. Most of the solvent was removed under reduced pressure, and the residue was dissolved in 100 mL of ethyl acetate and washed with saturated sodium bicarbonate. The organic layer was dried with anhydrous sodium sulfate and concentrated to give oil (0.92 g), which was used for the next reaction without further purification. LC-MS m/e 338 (MH+).

reactant | (1-Chloro-7-fluoro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 1.0 g | ClC1=NC(=CC2=CC(=C(C=C12)F)OC)NC1=NNC(=C1)C | C14H12ClFN4O
reactant | hydrobromic acid | 1 mL | Br | BrH
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 1-Bromo-7-fluoro-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-6-ol | 0.92 g | BrC1=NC(=CC2=CC(=C(C=C12)F)O)NC1=NNC(=C1)C | C13H10BrFN4O
